US05665737
a) 2-bromo-4-chloro-6-nitro-phenol
A solution of 2-bromo-4-chloro-phenol (99.24 g, 480 mM) in acetic acid (110 ml) and acetic anhydride (125 ml) was cooled to -10° C. Within 1 hour a solution containing 100% nitric acid (33 ml) and acetic acid (40 ml) was added between -10° and -5° C., with stirring. The mixture was stirred for an additional 1.5 hours at 0°-5° C., then the suspension poured onto 300 g of ice in 700 ml of water and stirred for a further 0.5 hour. The solid was collected, washed, and dried to give 97.12 g (80.1%) of the title compound (mp 121°-2° C.).

reactant | 2-bromo-4-chloro-phenol | 480 mM, 99.24 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | nitric acid | 33 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 125 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 700 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-4-chloro-6-nitro-phenol | 97.12 g, 80.1% | BrC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])O | C6H3BrClNO3
